US07202364B2
5-Trifluoromethyl-2-iodobenzoic acid (50 g, 158 mmol) is dissolved in anhydrous THF (200 mL) and cooled in an ice-salt bath until the temperature reaches −5° C. Borane-THF complex is added dropwise as a 1.0 M solution in THF (350 mL, 350 mmol) at −5° C. After addition is complete, the reaction mixture is slowly warmed to room temperature and stirred for 12 hours. Water (40 mL) is carefully added dropwise (foaming) and the reaction mixture stirred for 30 minutes. Additional water (350 mL) is added and the mixture is concentrated by rotary evaporator to remove most of the THF. Additional water (250 mL) is added to form a precipitate, which is isolated by filtration to give 5-trifluoromethyl-2-iodobenzyl alcohol (m.p. 81–82° C.).

reactant | 5-Trifluoromethyl-2-iodobenzoic acid | 158 mmol, 50 g | FC(C=1C=CC(=C(C(=O)O)C1)I)(F)F | C8H4F3IO2
reactant | Water | 40 mL | O | H2O
reactant | water | 350 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 350 mmol, 350 mL | C1CCOC1 | C4H8O
product | 5-trifluoromethyl-2-iodobenzyl alcohol | FC(C=1C=CC(=C(CO)C1)I)(F)F | C8H6F3IO
